US07491794B2
Step 1: Synthesis of 2-Chloro-N-[2-(3-methoxy-phenyl)-ethyl]-acetamide.
The amine, 2-(3-Methoxy-phenyl)-ethylamine, was taken up as a 0.6 M solution in DCM, followed by addition of TEA (2 equiv.). The mixture was then cooled in an IPA/dry ice bath. When the reaction temperature reached −60° C., a solution of chloroacetylchloride in DCM (2.6 M) was added dropwise so as to keep the temperature below −60° C. After complete addition, the reaction was stirred at −60° C. for 1 h. The reaction was then warmed to −20° C. and filtered over GF filter paper to remove some of the TEA —HCl salt. The filtrate was warmed the rest of the way to rt and transferred to a separatory funnel where it was washed with 1 N HCl (2×) and brine. The organic layer was dried over MgSO4 and concentrated to give a dark purple solid. This crude product was directly used in the next step without further purification.

reactant | 2-(3-Methoxy-phenyl)-ethylamine | COC=1C=C(C=CC1)CCN | C9H13NO
reactant | chloroacetylchloride | ClCC(=O)Cl | C2H2Cl2O
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | DCM | 2.6 M | C(Cl)Cl | CH2Cl2
product | 2-Chloro-N-[2-(3-methoxy-phenyl)-ethyl]-acetamide | ClCC(=O)NCCC1=CC(=CC=C1)OC | C11H14ClNO2
